US05209868
1-(trans-4-Propylcyclohexyl)-2-(trans-4-trifluoromethylcyclohexyl)ethane
A mixture of 0.1 mol of 1-(trans-4-propylcyclohexyl)-2-(trans-4-trifluoromethylcyclohexyl)ethene, 200 ml of methanol and 5 g of palladium/activated charcoal (15%) is hydrogenated for 2 hours under a pressure of 2 bar and at a temperature of 50° C. Customary work-up gives the product as a colourless solid.

reactant | 1-(trans-4-propylcyclohexyl)-2-(trans-4-trifluoromethylcyclohexyl)ethene | 0.1 mol | C(CC)[C@@H]1CC[C@H](CC1)C=C[C@@H]1CC[C@H](CC1)C(F)(F)F | C18H29F3
catalyst | palladium | 5 g | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | 1-(trans-4-Propylcyclohexyl)-2-(trans-4-trifluoromethylcyclohexyl)ethane | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C(F)(F)F | C18H31F3
